US04069319
Using the procedure of Example 12, 58.2 g of dipotassium N-cyanodithioimidocarbonate and 42 g of p-methylbenzyl chloride were reacted and then were treated with 35 ml of 30% hydrogen peroxide to obtain 26 g of 3-hydroxy-5-p-methylbenzylthio-1,2,4-thiadiazole melting at 144° C.

reactant | dipotassium N-cyanodithioimidocarbonate | 58.2 g | C(#N)N=C([S-])[S-].[K+].[K+]
reactant | p-methylbenzyl chloride | 42 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | hydrogen peroxide | 35 ml | OO | H2O2
product | 3-hydroxy-5-p-methylbenzylthio-1,2,4-thiadiazole | 26 g | OC1=NSC(=N1)SCC1=CC=C(C=C1)C | C10H10N2OS2
